US07560551B2
Step 1. Preparation of (3-chlorothiophen-2-yl)trimethylsilane
The title compound was prepared according to the procedure described in WO9412505. To a solution of 3-chlorothiophene (7.00 g, 59.0 mmol) in 60 mL anhydrous THF under nitrogen was added n-butyllithium, 2.5 M in hexanes (23.6 ml, 59.0 mmol) dropwise from a plastic syringe over 15 min. The reaction became cloudy with a white ppt. The reaction was allowed to stir for 40 min, at which point trimethylsilyl chloride (8.24 ml, 64.9 mmol) was added dropwise via syringe over 5 min. The mixture was allowed to stir for 10 min, and was then warmed to 0° C. for 10 min, and 7 mL water and 35 mL brine were added. The mixture was diluted with EtOAc, and the layers separated. The aqueous layer was extracted once with EtOAc. The combined organics were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give (3-chlorothiophen-2-yl)trimethylsilane as a yellow oil.

reactant | 3-chlorothiophene | 59.0 mmol, 7.00 g | ClC1=CSC=C1 | C4H3ClS
reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethylsilyl chloride | 64.9 mmol, 8.24 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | water | 7 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | brine | 35 mL | [Cl-].[Na+].O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3-chlorothiophen-2-yl)trimethylsilane | ClC1=C(SC=C1)[Si](C)(C)C | C7H11ClSSi
